US07084268B1
Water for injection was added to 2000 g titer equivalent amount of novel non-aseptic carbapenem hydrochloride derivative to give 20 kg dispersion. This dispersion was stirred and dissolved under ice-cooling to prepare a charge solution. Thereafter, the solution was aseptically filtered through a 0.2 μm membrane filter (MCGL20S03, 0.2 μm, Millipore) and fed to a crystallization tank (equipped with a jacket). Then, the crystallization tank was stirred by bubbling with nitrogen at 0 to 15° C., and 25 L isopropyl alcohol was aseptically added thereto. After crystallization, 55 L isopropyl alcohol was added aseptically added thereto over 1 hour or so. After aging for a predetermined time, the precipitated crystals were collected aseptically by filtration. The crystals were washed with isopropyl alcohol and acetone, and dried in a nitrogen stream with regulated humidity (20 to 40 RH %) for 10 hours or more, to give novel aseptic carbapenem hydrochloride trihydrate crystals.

reactant | carbapenem hydrochloride | Cl.C1C=CN2[C@H]1CC2=O
solvent | Water | O | H2O
product | carbapenem hydrochloride trihydrate | O.O.O.Cl.C1C=CN2[C@H]1CC2=O | InChI=1S/C6H7NO.ClH.3H2O/c8-6-4-5-2-1-3-7(5)6;;;;/h1,3,5H,2,4H2;1H;3*1H2/t5-;;;;/m1..../s1
